US08466290B2
PdCl2(dppf).CH2Cl2 (138 mg, 0.17 mmol), tripotassium phosphate (715 mg, 3.37 mmol), and 4-acetylphenylboronic acid (414 mg, 2.52 mmol) were added to a 1,4-dioxane (5 mL)/DMF (1 mL) mixed solution of 2-chloro-4-quinolinecarboxylic acid benzyl ester (500 mg, 1.68 mmol) obtained in Reference Example 4, and the mixture was heated with stirring at 85° C. for 10 hours in an argon atmosphere. After the reaction solution was concentrated, to the residue, a saturated aqueous solution of sodium chloride and methylene chloride were added, and insoluble matter was filtered off through celite. After that, the residue was subjected to extraction with methylene chloride and dried over anhydrous sodium sulfate. The solvent was distilled off, and the obtained residue was purified by silica gel column chromatography to obtain 2-(4-acetylphenyl)-4-quinolinecarboxylic acid benzyl ester (434 mg, 1.14 mmol).

reactant | CH2Cl2 | 0.17 mmol, 138 mg | C(Cl)Cl | CH2Cl2
reactant | tripotassium phosphate | 3.37 mmol, 715 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4-acetylphenylboronic acid | 2.52 mmol, 414 mg | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
reactant | 2-chloro-4-quinolinecarboxylic acid benzyl ester | 1.68 mmol, 500 mg | C(C1=CC=CC=C1)OC(=O)C1=CC(=NC2=CC=CC=C12)Cl | C17H12ClNO2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-(4-acetylphenyl)-4-quinolinecarboxylic acid benzyl ester | 1.14 mmol, 434 mg | C(C1=CC=CC=C1)OC(=O)C1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)C(C)=O | C25H19NO3
